delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 663.277805
Rb B C 30.547841
Rc C A 30.56438
Rload B 0 29.854214
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
